US07612067B2
A. 4-(5-Bromo-4-methyl-thiophen-2-yl)-tetrahydro-pyran-4-ol.
To a −78° C. solution of 2-bromo-3-methyl-thiophene (2.0 g, 17.75 mmol) and THF (30 mL) is added 2.0 M LDA (9.32 mL, 18.63 mmol). After 30 minutes at −78° C. tetrahydro-pyran-4-one (2.3 mL, 23.07 mmol) is added and the solution is warmed to ambient temperature. The solution is washed with sat. NH4Cl (30 mL). The aqueous phases is extracted with EtOAc. The combined organic layers are dried over MgSO4, filtered and concentrated. The residue is purified by ISCO column chromatography (30%-100% EtOAc/hexane gradient) furnish the title compound (2.3 g, 8.30 mmol, 47%). 1H NMR (CDCl3), δ 1.82 (m, 2H), 2.00 (s, 3H), 2.06-2.15 (m, 3H), 2.16 (s, 3H), 3.77-3.84 (m, 2H), 3.87 dt, J=11.3, 2.2 Hz, 2H), 6.67 (s, 1H). LC/MS (m/z): calcd. for C10H13BrO2S (M+H)+: 277.0; found: 260.9.

reactant | 2-bromo-3-methyl-thiophene | 17.75 mmol, 2.0 g | BrC=1SC=CC1C | C5H5BrS
reactant | LDA | 18.63 mmol, 2.0 M, 9.32 mL | [Li+].CC(C)[N-]C(C)C
reactant | tetrahydro-pyran-4-one | 23.07 mmol, 2.3 mL | O1CCC(CC1)=O | C5H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-(5-Bromo-4-methyl-thiophen-2-yl)-tetrahydro-pyran-4-ol | 8.30 mmol, 2.3 g, 47% | BrC1=C(C=C(S1)C1(CCOCC1)O)C | C10H13BrO2S
